US06005103
3-[ (2-sec-Butylphenyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one (±)
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (1.0 g, 6.17 mmol) and diethyl ester of [(2-sec-butylphenyl)thio]propanedioic acid (1.0 g, 3.09 mmol). m.p. 170-171° C.; 1H NMR (400 MHz, DMSO-d6) δ0.86(t, 3H), 1.22 (d, 3H), 1.57 (m, 1H), 1.67 (m, 1H), 3.22 (m, 1H), 6.89 (s, 1H), 6.97 (d, 1H), 7.06 (t, 1H), 7.13 (t, 1H), 7.22 (d, 1H), 7.56 (m, 3H), 7.86 (m, 2H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 6.17 mmol, 1.0 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [(2-sec-butylphenyl)thio]propanedioic acid | 3.09 mmol, 1.0 g | C(C)(CC)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C13H16O4S
product | 3-[ (2-sec-Butylphenyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one | C(C)(CC)C1=C(C=CC=C1)SC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C21H20O3S
